US06245804B1
Corresponding to J. Org. Chem. 40 (1975) 3497, 16.7 g of 2-methoxyphenylacetonitrile, 158 ml of lithium triisopropyl-amide (2 mol solution) and 46.7 ml of 1,2-dichloroethane in 96 ml of tetrahydrofuran and 58.6 ml of hexamethylphosphoric acid triamide are reacted with one another. 5.6 g of 1-(2-methoxy-phenyl)-cyclopropyl-carbonitrile, boiling point 104-115° C./0.1 mbar, which was also reacted as described for 3-(1-phenyl-cyclobutyl)-2-oxo-propionic acid, is obtained. 3-[1-(2-Methoxyphenyl)-cyclopropyl]-2-oxo-propionic acid is thus obtained as an oil.

reactant | 2-methoxyphenylacetonitrile | 16.7 g | COC1=C(C=CC=C1)CC#N | C9H9NO
reactant | 1,2-dichloroethane | 46.7 ml | ClCCCl | C2H4Cl2
reactant | 3-(1-phenyl-cyclobutyl)-2-oxo-propionic acid | C1(=CC=CC=C1)C1(CCC1)CC(C(=O)O)=O | C13H14O3
solvent | tetrahydrofuran | 96 ml | O1CCCC1 | C4H8O
solvent | hexamethylphosphoric acid triamide | 58.6 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 3-[1-(2-Methoxyphenyl)-cyclopropyl]-2-oxo-propionic acid | COC1=C(C=CC=C1)C1(CC1)CC(C(=O)O)=O | C13H14O4
